US07253286B2
N-(4-(6-Cyano-7-(3-carboxypropoxy)-4-quinolyl)oxyphenyl)-N′-(4-methoxyphenyl)urea
N-(4-(6-Cyano-7-(3-methoxycarbonylpropoxy)-4-quinolyl)oxyphenyl)-N′-(4-methoxyphenyl)urea (100 mg) was added to a methanol (16 ml) and 2N aqueous sodium hydroxide (3 ml) mixed solvent, and the mixture was heated and stirred at 80° C. for 35 minutes. The reaction solution was filtered, and then 1.2 ml of aqueous 5N hydrochloric acid was added. The precipitated solid was filtered out and washed with methanol and then ether to obtain 50 mg of the target substance as a light yellow solid.

reactant | N-(4-(6-Cyano-7-(3-methoxycarbonylpropoxy)-4-quinolyl)oxyphenyl)-N′-(4-methoxyphenyl)urea | 100 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OCCCC(=O)OC)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC | C29H26N4O6
reactant | sodium hydroxide | 2N, 3 ml | [OH-].[Na+]
solvent | methanol | 16 ml | CO | CH4O
product | N-(4-(6-Cyano-7-(3-carboxypropoxy)-4-quinolyl)oxyphenyl)-N′-(4-methoxyphenyl)urea | C(#N)C=1C=C2C(=CC=NC2=CC1OCCCC(=O)O)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC | C28H24N4O6
